* PLL_CHARGEPUMP -- AnalogGym charge-pump transient bench on TSMC16
* Measurement set follows the shipped tran_27corner.sp nominal corner: average
* source (up) and sink (down) current and their range over the pulse train.
* vcp_net is clamped by the original 1 GF load so the ammeters inside the block
* read the pump currents directly.
.include ./tsmc16_models.spice
.include ./netlist.spice

.param vdd = 0.8
.param vcp = 0.4
.temp 25

xi0 vcp_net dn_net dnb_net i10u_net i5u_net 0 vdd_net up_net upb_net vdd_net 0 PLL_CHARGEPUMP
i10 vdd_net i10u_net DC=1e-05
i5  vdd_net i5u_net  DC=5e-06
v0  vdd_net 0 DC='vdd'
c0  vcp_net 0 1e9
.ic v(vcp_net)='vcp'

vdn  dn_net  0 PULSE 0 '0.8' 10e-9 10e-12 10e-12 10e-9 20e-9
vdnb dnb_net 0 PULSE 0 '0.8' 0     10e-12 10e-12 10e-9 20e-9
vupb upb_net 0 PULSE 0 '0.8' 0     10e-12 10e-12 10e-9 20e-9
vup  up_net  0 PULSE 0 '0.8' 10e-9 10e-12 10e-12 10e-9 20e-9

.measure tran up_imin min i(v.xi0.vupper) from=20e-9 to=100e-9
.measure tran up_iavg avg i(v.xi0.vupper) from=20e-9 to=180e-9
.measure tran up_imax max i(v.xi0.vupper) from=20e-9 to=100e-9
.measure tran lo_imin min i(v.xi0.vlower) from=20e-9 to=100e-9
.measure tran lo_iavg avg i(v.xi0.vlower) from=20e-9 to=180e-9
.measure tran lo_imax max i(v.xi0.vlower) from=20e-9 to=100e-9
.end
